US07119109B2
c) 2-[1-(2-Azidoethyl)-2,2,3,3,3-pentafluoropropoxy]-6-trifluoromethyl-nicotinonitrile
To a solution of 5-azido-1,1,1,2,2-pentafluoro-3-pentanol (500 mg, 2.28 mmol) in dimethylformamide (10 ml) was added 2-chloro-6-(trifluoromethyl)nicotinonitrile (565 mg, 2.74 mmol) followed by caesium carbonate (2.20 g, 6.75 mmol). The reaction mixture turned brown. After 2 h, the reaction mixture was added to water (10 ml) and extracted with diethyl ether (2×15 ml). The combined organics were washed with brine (20 ml) and dried over anhydrous sodium sulfate. Removal of the solvents yielded a brown liquid. Purification by silica gel chromatography using hexanes/ethyl acetate (10:1 then 1:1) gave the title compound as a yellow liquid (780 mg, 88%).

reactant | 5-azido-1,1,1,2,2-pentafluoro-3-pentanol | 2.28 mmol, 500 mg | N(=[N+]=[N-])CCC(C(C(F)(F)F)(F)F)O | C5H6F5N3O
reactant | 2-chloro-6-(trifluoromethyl)nicotinonitrile | 2.74 mmol, 565 mg | ClC1=C(C#N)C=CC(=N1)C(F)(F)F | C7H2ClF3N2
reactant | caesium carbonate | 6.75 mmol, 2.20 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | 10 ml | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-[1-(2-Azidoethyl)-2,2,3,3,3-pentafluoropropoxy]-6-trifluoromethyl-nicotinonitrile | 780 mg, 88% | N(=[N+]=[N-])CCC(C(C(F)(F)F)(F)F)OC1=C(C#N)C=CC(=N1)C(F)(F)F | C12H7F8N5O
